US08022223B2
Step A: Preparation of tert-butyl 4-((6-(4-phenethylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)(pyridin-2-yl)methyl)piperidine-1-carboxylate:
Prepared according to the method of Example 16 from methyl 3-(6-(4-phenethylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate, potassium 2-methylpropan-2-olate, and tert-butyl 4-((methylsulfonyloxy)(pyridin-2-yl)methyl)piperidine-1-carboxylate.

reactant | methyl 3-(6-(4-phenethylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate | C(CC1=CC=CC=C1)C=1N=C(SC1)NC1=C(C=C(C=N1)SCCC(=O)OC)OC1=CC=CC=C1 | C26H25N3O3S2
reactant | potassium 2-methylpropan-2-olate | CC(C)(C)[O-].[K+]
reactant | tert-butyl 4-((methylsulfonyloxy)(pyridin-2-yl)methyl)piperidine-1-carboxylate | CS(=O)(=O)OC(C1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C17H26N2O5S
product | tert-butyl 4-((6-(4-phenethylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)(pyridin-2-yl)methyl)piperidine-1-carboxylate | C(CC1=CC=CC=C1)C=1N=C(SC1)NC1=C(C=C(C=N1)SC(C1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1)OC1=CC=CC=C1 | C38H41N5O3S2
